US05037834
6-Benzyl-5,6,7,8-tetrahydro-1,6-naphthyridine
1,6-Naphthyridine (13.7 g, 105 mmol) and benzyl bromide (36.05 g, 210 mmol) were combined in acetonitrile (200 ml) and heated to reflux until no 1,6-naphthyridine was visible by thin layer chromatography. After removal of the solvent in vacuo, the residue was washed several times with ether and dissolved in methanol (700 ml). Water (250 ml) was added, and the solution cooled to 0°; portionwise addition of sodium borohydride (20.8 g, 550 mmol) brought about vigorous gas evolution and a slight rise in temperature. The reaction mixture was allowed to warm to room temperature and stir for 18 hours. The solvent was then removed in vacuo and the residue partitioned between water (750 ml) and methylene chloride (300 ml). The aqueous layer was extracted with additional methylene chloride (2×300 ml) and the combined organic extracts were washed once with water and once with saturated aqueous sodium chloride. Removal of solvent provided a dark amber foam, which was purified by column chromatography (99:1 methylene chloride:methanol) to yield the title product (12.1 g, 54 mmol, 51% yield).

reactant | 1,6-Naphthyridine | 105 mmol, 13.7 g | N1=CC=CC2=CN=CC=C12 | C8H6N2
reactant | benzyl bromide | 210 mmol, 36.05 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium borohydride | 550 mmol, 20.8 g | [BH4-].[Na+]
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 6-Benzyl-5,6,7,8-tetrahydro-1,6-naphthyridine | 54 mmol, 12.1 g, 51% yield | C(C1=CC=CC=C1)N1CC=2C=CC=NC2CC1 | C15H16N2
